* Simplified DRAM retention model for learning
* Pulse charges both storage nodes through idealized access switches.

.param Ccell=30f
.param Rgood=100G
.param Rleaky=10G

Vwrite write 0 PULSE(0 1 0 1n 1n 100n 10m)
Sgood write storage_good control 0 swmod
Sleaky write storage_leaky control 0 swmod
Vcontrol control 0 PULSE(1 0 0 1n 1n 100n 10m)

Cgood storage_good 0 {Ccell}
Cleaky storage_leaky 0 {Ccell}
Rgood_leak storage_good 0 {Rgood}
Rbad_leak storage_leaky 0 {Rleaky}

.model swmod SW(Ron=10 Roff=1T Vt=0.5 Vh=0)
.tran 0 20m 0 1u
.meas tran Tgood WHEN V(storage_good)=0.5 FALL=1
.meas tran Tleaky WHEN V(storage_leaky)=0.5 FALL=1
.end

